US07485639B2
0.272 g of 4-amino-3-mercapto-6-methyl-4H-1,2,4-triazin-5-one (which can be prepared by the method of A. Dornow, H. Menzel, P. Marx, Chem. Ber. 97, 2173 (1964)) was suspended in 0.86 ml of a 2N solution of sodium hydroxide in water. A solution of 0.218 g of benzyl chloride in ethanol was subsequently added dropwise, and the mixture was heated at 80° C. for 30 minutes. The resultant precipitate was filtered off with suction, giving 4-amino-3-benzylsulfanyl-6-methyl-4H-1,2,4-triazin-5-one.

reactant | 4-amino-3-mercapto-6-methyl-4H-1,2,4-triazin-5-one | 0.272 g | NN1C(=NN=C(C1=O)C)S | C4H6N4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl chloride | 0.218 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-3-benzylsulfanyl-6-methyl-4H-1,2,4-triazin-5-one | NN1C(=NN=C(C1=O)C)SCC1=CC=CC=C1 | C11H12N4OS
